US08835648B2
N-(2-Amino-5-fluoro-phenyl)-5-bromo-2-chloro-benzamide
Method 3,4—Step a To a mixture of the solids 5-Bromo-2-chlorobenzoic acid (7.00 g, 29.79 mmol), 4-Fluoro-benzene-1,2-diamine (4.65 g, 36.94 mmol) and O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU) (11.89 g, 31.28 mmol), triethylamine (TEA) (4.60 mL, 32.77 mmol), dichloromethane (120 mL) and dimethylformamide (DMF) (30 mL) were added. The reaction mixture was stirred at room temperature overnight, water was added (30 mL) and stirred until the formation of a precipitate. The precipitate was filtered off, washed with dichloromethane (3×10 mL) and dried to afford 6.90 g of the title compound (69%).

reactant | 5-Bromo-2-chlorobenzoic acid | 29.79 mmol, 7.00 g | BrC=1C=CC(=C(C(=O)O)C1)Cl | C7H4BrClO2
reactant | 4-Fluoro-benzene-1,2-diamine | 36.94 mmol, 4.65 g | FC=1C=C(C(=CC1)N)N | C6H7FN2
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 31.28 mmol, 11.89 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | 32.77 mmol, 4.60 mL | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | N-(2-Amino-5-fluoro-phenyl)-5-bromo-2-chloro-benzamide | 6.90 g, 69% | NC1=C(C=C(C=C1)F)NC(C1=C(C=CC(=C1)Br)Cl)=O | C13H9BrClFN2O
